US08420052B2
General experimental procedure for the preparation of 6-methoxybenzo[d]oxazol-2-amine: A mixture of 5-methoxy-2-nitrophenol (0.51 g, 3.02 mmol), Pd/C (10% by weight, 70 mg), and HOAc (cat. amount) in MeOH (30 mL) was hydrogenated under H2 at room temperature for 2 hrs, and then was filtered through a short Celite pad. The filtrate was concentrated in vacuo to provide 2-amino-5-methoxyphenol as a brown solid (0.42 g, 100%). 1H NMR (CDCl3, 400 MHz) δ 6.79 (d, J=8.4 Hz, 1H), 6.44 (d, J=2.8 Hz, 1H), 6.35 (dd, J=8.4, 2.8 Hz, 1H), 3.74 (s, 3H). This product was used directly in the next step without any further purification.

reactant | 6-methoxybenzo[d]oxazol-2-amine | COC1=CC2=C(N=C(O2)N)C=C1 | C8H8N2O2
reactant | 5-methoxy-2-nitrophenol | 3.02 mmol, 0.51 g | COC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
reactant | HOAc | CC(=O)O | C2H4O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 2-amino-5-methoxyphenol | 0.42 g, 100% | NC1=C(C=C(C=C1)OC)O | C7H9NO2
